2129-05-26 18:14:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see original ICU admission note from Dr [**First Name (STitle) **] dated [**2129-5-21**].
   In brief, 77 yo male with recent VRE bacteremia (from PICC line) and C.
   diff infection
 in early [**Month (only) 807**] who was sent to rehab then  left AMA
   from [**Hospital1 238**]. It seems that at home he became  profoundly dehydrated. He
   called EMS and was hypotensive then PEA in the field with cardiac
   arrest. Went to Green team. He was initially cooled, then stopped.
   Extubated ICU day 2. Post arrest Echo with septal ant and partial
   inferior HK and LVEF 35%, RV free wall HK, and 2+ MR.
   [**Name13 (STitle) **] had a HCT drop from 32 to 22 but had recent [**Last Name (un) **] in [**Month (only) 51**] and plan was
   capsiule endo then outpt follow up unless rebleeds. He was  transferred
   to floor on ICU day 3
 [**5-23**]. His mental status waxed and waned but at
   times reported to be as good as A and O x 3. OIn the floor his main
   issues were aspiration and non anion gap acidosis. On the AM of [**4-24**] he
   had an episode of hand clenching tremor, ECG with new changes lat TWI
   and + trop 0.5 so treated as NSTEMI
 EEG dome without epileptiform
   changes. Head CT without acute change. Overnight [**5-25**] to [**5-26**] dropping
   UOP, and BP and tx to MICU for further management.
   On arrival to MICU, hypothermic to 92, clamped down, poor mental
   status.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-5-26**] 01:25 PM
   Daptomycin - [**2129-5-26**] 02:50 PM
   Metronidazole - [**2129-5-26**] 04:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2129-5-26**] 06:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.4
C (95.8
   HR: 98 (93 - 103) bpm
   BP: 102/69(76) {98/65(73) - 104/70(78)} mmHg
   RR: 25 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (2 - 9)mmHg
   Mixed Venous O2% Sat: 43 - 43
                               Total In:
                               899 mL
   PO:
                               TF:
   IVF:
   899 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     58 mL
   Urine:
   58 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    841 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Gen: lying in bed, eyes open, min response to commands,
   CV: tachy RR, [**1-7**] sys m
   Chest: coarse bs bilat but right gretare than left
   Abd: soft hypoactive BS
   Ext: cool, cyanotic toes and fingers with poor cap refill, large
   ulceration over right heel, clean and dry w sutures
   Neuro: staring ahead, will track to voice, non responding verbally to
   any commands, moving arms and legs minimally
   Labs / Radiology
   5.7 g/dL
   177 K/uL
   126 mg/dL
   1.8 mg/dL
   18 mEq/L
   3.9 mEq/L
   19 mg/dL
   121 mEq/L
   150 mEq/L
   28.4 %
   5.0 K/uL
        [image002.jpg]
                             [**2129-5-22**]  04:31 AM
                             [**2129-5-22**]  04:42 AM
                             [**2129-5-22**]  06:45 AM
                             [**2129-5-22**]  09:56 AM
                             [**2129-5-22**]  10:11 AM
                             [**2129-5-22**]  12:26 PM
                             [**2129-5-23**]  04:21 AM
                             [**2129-5-26**]  11:09 AM
                             [**2129-5-26**]  03:39 PM
                             [**2129-5-26**]  05:30 PM
   WBC
   7.2
   11.4
   7.9
   5.0
   Hct
   22.1
   25.8
   25.1
   27.9
   17.8
   28.4
   Plt
   297
   360
   302
   177
   Cr
   1.1
   1.3
   1.7
   1.8
   TropT
   0.06
   0.52
   TCO2
   17
   15
   15
   15
   Glucose
   71
   88
   160
   126
   Other labs: PT / PTT / INR:19.5/47.9/1.8, CK / CKMB /
   Troponin-T:125/9/0.52, ALT / AST:22/111, Alk Phos / T Bili:86/0.4,
   Amylase / Lipase:/50, Differential-Neuts:64.8 %, Lymph:31.2 %, Mono:3.7
   %, Eos:0.1 %, Fibrinogen:279 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.0
   g/dL, LDH:294 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   CXR: evolving right greater than left bibasilar infiltrates, NGT in
   place
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
   1.       Hypotension
 likely cardiogenic failure progressing to shock.
   Echo has just retunred and shows severe biventricular function
 sig
   worse from [**5-23**] with new RV aneurysm. His mixed venous is 43 and CVP is
   only 5-  8. at this point since he did bump his BP to volume on Tx we
   will try transufins 1 U PRBC
 and small IVF blous tonight  trending
   SCVo2, CVP, lactate, MAPS.  One other though is that there may have
   also been an acvute PE on [**5-25**] when he had the non spec ECG changes
   since he has known RV thrombus and hx of DVT and IVC filter but has not
   been anticoag. This would also favor adding pre load challenge.
   2.       ARF: in setting of hypotension and very poor forward flow with
   also ? throwing clot to kidneys from LV clot and indeed he did get
   contrast for CTPE a few days ago.
   3.        Altered mental status: hypoperfusion and delirium seems most
   likely, with possible recrudescence of CVA
 no acute bleed or changes
   by CT and EEg with seizures. Will raise MAP and follow exam closely.
   POssibel MRI if no improvement but will have to watch closely.
   4.       GI Bleed: HCT stable at present but recent HCT drop and
   diverticular bleed in [**First Name5 (NamePattern1) 807**]
 [**Last Name (NamePattern1) 8414**] active anti coag at present.
   Remaining issues as per Housestaff
 discussed and noted above
   ICU Care
   Nutrition: NPO for now unable to swallow
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-5-26**] 12:27 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  trying to reach son who [**Name2 (NI) 8415**] has been
   functioning as proxy. With this EF and evolving renal failure his
   prognosis is grim and goals will need to be addressed
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2129-05-27 04:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2129-5-26**] 12:27 PM
 TRANSTHORACIC ECHO - At [**2129-5-26**] 04:53 PM
   [**5-26**]
   - NGT placed
   - Echo done - biventricular hypokinesis, LVEF 10%, thrombus in the RV
   apex
   - Gave 1 unit of blood, one 500cc NS bolus, and one 250cc NS bolus
   - discussed code status with patient's son - ultimately decided to make
   patient DNR/DNI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2129-5-26**] 02:50 PM
   Metronidazole - [**2129-5-26**] 04:30 PM
   Vancomycin - [**2129-5-26**] 06:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-5-26**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-5-27**] 04:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 93 (93 - 107) bpm
   BP: 95/66(73) {90/60(67) - 110/77(84)} mmHg
   RR: 27 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (2 - 9)mmHg
   Mixed Venous O2% Sat: 43 - 59
                                Total In:
                                                                  1,636 mL
                                                                    598 mL
   PO:
                                TF:
   IVF:
                                                                  1,056 mL
                                                                    298 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                     73 mL
                                                                      8 mL
   Urine:
                                                                     73 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,563 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/20/102/17/-8
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   10.7 g/dL
   119 mg/dL
   2.0 mg/dL
   17 mEq/L
   4.3 mEq/L
   20 mg/dL
   118 mEq/L
   148 mEq/L
   33.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2129-5-22**]  06:45 AM
                             [**2129-5-22**]  09:56 AM
                             [**2129-5-22**]  10:11 AM
                             [**2129-5-22**]  12:26 PM
                             [**2129-5-23**]  04:21 AM
                             [**2129-5-26**]  11:09 AM
                             [**2129-5-26**]  03:39 PM
                             [**2129-5-26**]  05:30 PM
                             [**2129-5-27**]  02:39 AM
                             [**2129-5-27**]  04:22 AM
   WBC
   11.4
   7.9
   5.0
   9.0
   Hct
   25.8
   25.1
   27.9
   17.8
   28.4
   33.1
   Plt
   [**Telephone/Fax (3) 8419**]15
   Cr
   1.3
   1.7
   1.8
   2.0
   TropT
   0.52
   TCO2
   15
   15
   15
   13
   Glucose
   88
   160
   126
   119
   Other labs: PT / PTT / INR:18.9/59.4/1.7, CK / CKMB /
   Troponin-T:125/9/0.52, ALT / AST:22/111, Alk Phos / T Bili:86/0.4,
   Amylase / Lipase:/50, Differential-Neuts:66.0 %, Lymph:28.6 %, Mono:5.1
   %, Eos:0.1 %, Fibrinogen:279 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0
   g/dL, LDH:294 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
   ASSESSMENT AND PLAN: The patient is a 73 yo man with h/o PVD, DM, CAD,
   and recent C diff who presented s/p intubation and PEA arrest thought
   to be [**1-3**] dehydration from cdiff infection.
   .
   # Hypotension/hypothermia: Unclear precipitant.  Patient has neurologic
   abnormalities concerning for central process though this may be a
   result of his hypotension/?infection.  He has not had any fever spikes
   or hypothermia prior, has no leukocytosis and had been hemodyamically
   stable until this morning.  New petechiae in combination with AMS and
   neurologic abnormalities and hypotension/hypothermia concerning for
   global process such as DIC.  UA, CXR and blood cultures have been
   negative to date.  Foot lesion does not appear acutely infected. Recent
   TTE showed no evidence of endocarditis.
   - DIC labs
   - Send infectious work up including CXR, UA/ucx, blood cultures
   - Will cover with broad spectrum abx for now to cover patient's known
   bugs: daptomycin given incompletely treated VRE bacteremia which will
   cover gram pos organisms and Zosyn given h/o of pseudomonas and for
   broad gram neg and anaerobes
   - Cont c. diff treatment with vanc PO and flagyl
   - Continue warming
   # Encephalopathy: EEG showing global encephalopathy, and patient is
   nonvocal this morning with some residual motor and CN defects as noted
   above.  Patient has many reasons for encephalopathy including recent
   NSTEMI, incompleted treated VRE bacteremia, recurrent c. diff, and
   history of CVA now in the setting of hypotension.  Per Neurology,
   current AMS and neurologic deficits may represent recrudescence of
   defects from prior CVA in the setting of hypotension.
   - Appreciate Neuro recommendations
   - Continue to follow neuro exam q2h
   - MRI/MRA head once HD stable
   # Non-AG metabolic acidosis: Most likely RTA as diarrhea improved and
   bicarb had been worsening.
   - Urine AG, urine pH
   - Continue to follow stool output
   - Appreciate renal recs
   - Continue isotonic bicarb vs PO per renal recs as needed
   # Hypernatremia: Likely lack of free water.
   - Will continue to trend
   - Free water boluses via NGT prn
   # Coagulopathy: Worse than prior. Likely a combination of malnutrition,
   infectious process and ongoing etoh abuse.
   - One dose vitamin K now
   - Continue to trend
   - Nutrition consult for TF recs once NGT in place
   # C. diff colitis: Diarrhea much improved.  Was started on treatment
   for recurrence w/ PO flagyl since [**2129-5-3**], due to be discontinued on
   [**5-25**] once all other antibiotics were discontinued.  Was on PO
   vancomycin during this admission since [**5-21**], but given aspiration, he
   has not rec'd this for the last 24H. No fever spikes, no leukocytosis.
   - NGT for oral meds including PO vanc
   - Continue IV flagyl for now, consider dc as may represent failure
   - Continue to monitor stool output, abdominal exam
   - Resend c. diff stool ag
   # Anemia: Currently stable post-10 point drop.  Has only had one unit
   transfusion this admission on [**5-25**] in the setting of NSTEMI.  Iron
   studies consistent with AOCD.
   - Continue to trend
   - Cont folate
   # CAD w/ current NSTEMI: Troponin continues to increase, but appears to
   be plateauing - last 0.52. CK and MB fraction stable. Rec'd ASA PR, BB
   and attempted statin in the setting of acute event (unable to tolerate
   statin PO due to aspiration).  ECG showing old RBBB w/ ST depression
   and TWI in precordial leads.
   - Medical management as tolerated including IV BB with holding
   parameters given hypotension
   - Hold ASA for now as NPO and history of major GI bleed last month
   - Will send fasting lipids, will likely need statin once able to take
   PO medications or prior to discharge
   - Daily ECGs
   # Chronic systolic heart failure: Only ECHO in OMR showing regional LV
   systolic dysfunction c/w CAD w/ EF of 35%.  Medical management limited
   at this time given hypotention.  CXR on admission to MICU c/w pulm
   edema.  Also has LV apical aneurysmal dilatation and interatrial septal
   aneurysm.
   - Hold on further IVF for now
   - Will likely benefit from ACEi once stabilized and hypotension has
   resolved
   - Repeat ECHO in the setting of NSTEMI to assess for worsening failure
   given hypotension/?cardiogenic etiology
   - Could consider anticoagulation given apical aneursym, though with
   history of major GI bleed in recent past and ongoing alcohol abuse at
   home, not a good candidate at this time.
   # Oliguria/acute on chronic renal failure: Likely in the setting of
   hypoperfusion/ATN/RTA. ? pyelo and bilateral renal infarcts on CT
   abdomen.
   - Urine sediment/culture
   - Continue to monitor UOP
   - Appreciate renal recs
   - Repeat renal imaging at some point to eval findings on CT prior
   - Hold on further IVF given evidence of pulm edema on CXR
   # Foot ulcer: Followed by podiatry
   - Cont dry dressing
   - Appreciate podiatry recs/mgmt
   # DM type 2 w/ complications:
   - Continue HISS, last A1C was 6% in [**7-9**]
   # COPD: Continue standing inhaler q6hrs (albuterol and atrovent)
   # FEN: Will need NGT for tube feeds, oral meds.
   - Nutrition c/s for TF recommendations
   - Continue prn isotonic bicarb as above
   - Cont folate/thiamine given history of etoh abuse
   # Access: RIJ placed [**5-21**], will need to be replaced if central access
   continues to be necessary.
   # PPX: SQ heparin tid, bowel regimen prn, [**Hospital1 **] PPI
   CODE STATUS: full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-5-26**] 12:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2129-05-27 08:41:00 Physician Attending Progress Note
Chief Complaint: hypotension, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2129-5-26**] 12:27 PM
 TRANSTHORACIC ECHO - At [**2129-5-26**] 04:53 PM
   Given blood and gentle IVf with rise in SCVO2 from 42 to 59
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2129-5-26**] 02:50 PM
   Vancomycin - [**2129-5-26**] 06:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-5-27**] 06:07 AM
   Metronidazole - [**2129-5-27**] 07:57 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-5-27**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2129-5-27**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-5-27**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 101 (93 - 107) bpm
   BP: 106/74(81) {90/60(67) - 110/77(84)} mmHg
   RR: 23 (20 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 4 (2 - 9)mmHg
   Mixed Venous O2% Sat: 43 - 59
                               Total In:
                                                                  1,636 mL
                                                                  1,307 mL
   PO:
                               TF:
   IVF:
                                                                  1,056 mL
                                                                    647 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                     73 mL
                                                                      8 mL
   Urine:
                                                                     73 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,563 mL
                                                                  1,299 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.42/20/102/17/-8
   Physical Examination
    Gen: lying in bed, eyes open, min response to commands,
   CV: tachy RR, [**1-7**] sys m
   Chest: coarse bs bilat but right gretare than left
   Abd: soft hypoactive BS
   Ext: cool, cyanotic toes and fingers with poor cap refill, large
   ulceration over right heel, clean and dry w sutures
   Neuro: staring ahead, will track to voice, non responding verbally to
   any commands, moving arms and legs minimally
   Labs / Radiology
   10.7 g/dL
   315 K/uL
   119 mg/dL
   2.0 mg/dL
   17 mEq/L
   4.3 mEq/L
   20 mg/dL
   118 mEq/L
   148 mEq/L
   33.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2129-5-22**]  06:45 AM
                             [**2129-5-22**]  09:56 AM
                             [**2129-5-22**]  10:11 AM
                             [**2129-5-22**]  12:26 PM
                             [**2129-5-23**]  04:21 AM
                             [**2129-5-26**]  11:09 AM
                             [**2129-5-26**]  03:39 PM
                             [**2129-5-26**]  05:30 PM
                             [**2129-5-27**]  02:39 AM
                             [**2129-5-27**]  04:22 AM
   WBC
   11.4
   7.9
   5.0
   9.0
   Hct
   25.8
   25.1
   27.9
   17.8
   28.4
   33.1
   Plt
   [**Telephone/Fax (3) 8419**]15
   Cr
   1.3
   1.7
   1.8
   2.0
   TropT
   0.52
   TCO2
   15
   15
   15
   13
   Glucose
   88
   160
   126
   119
   Other labs: PT / PTT / INR:18.9/59.4/1.7, CK / CKMB /
   Troponin-T:125/9/0.52, ALT / AST:22/111, Alk Phos / T Bili:86/0.4,
   Amylase / Lipase:/50, Differential-Neuts:66.0 %, Lymph:28.6 %, Mono:5.1
   %, Eos:0.1 %, Fibrinogen:279 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0
   g/dL, LDH:294 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
   1.       Hypotension
 likely cardiogenic failure progressing to shock.
   Echo has just retunred and shows severe biventricular function
 sig
   worse from [**5-23**] with new RV aneurysm. His mixed venous is 43 and CVP is
   only 5-  8. at this point since he did bump his BP to volume on Tx we
   will try transufins 1 U PRBC
 and small IVF blous tonight  trending
   SCVo2, CVP, lactate, MAPS.  One other though is that there may have
   also been an acvute PE on [**5-25**] when he had the non spec ECG changes
   since he has known RV thrombus and hx of DVT and IVC filter but has not
   been anticoag. This would also favor adding pre load challenge.
   2.       ARF: in setting of hypotension and very poor forward flow with
   also ? throwing clot to kidneys from LV clot and indeed he did get
   contrast for CTPE a few days ago.
   3.        Altered mental status: hypoperfusion and delirium seems most
   likely, with possible recrudescence of CVA
 no acute bleed or changes
   by CT and EEg with seizures. Will raise MAP and follow exam closely.
   POssibel MRI if no improvement but will have to watch closely.
   4.       GI Bleed: HCT stable at present but recent HCT drop and
   diverticular bleed in [**First Name5 (NamePattern1) 807**]
 [**Last Name (NamePattern1) 8414**] active anti coag at present.
   Remaining issues as per Housestaff
 discussed and noted above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-5-26**] 12:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2129-05-28 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - urine lytes sent
   - bicarb gtt started due to acidosis
   - increased PO bicarb
   - dirty U/A but pt already noted to be on vanco, zosyn, dapto
   - lactate sent in view of acidosis, stable at 2.0
   - repeat lytes at [**2119**] hrs
   - will need to contact priest and son ([**Telephone/Fax (1) 8437**]) re: poor prognosis
   and dispo first thing Saturday AM.
   - is anuric and will try to avoid HD
   - discussed with Dr. [**Last Name (STitle) 3482**] (renal), who will leave note in AM
   - PPI changed to [**Hospital1 7**] dosing
   - no new recs per neuro, rec MRI when stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-5-26**] 06:49 PM
   Daptomycin - [**2129-5-27**] 02:09 PM
   Metronidazole - [**2129-5-28**] 12:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-5-28**] 05:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole
   Daptomycin
   FoLIC Acid
   Heparin
   Insulin
   Ipratropium Bromide Neb
   Lorazepam
   MetRONIDAZOLE
   Metoprolol Tartrate
   Nicotine Patch
   Piperacillin-Tazobactam
   Thiamine
   Vancomycin Oral Liquid
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-5-28**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 91 (82 - 146) bpm
   BP: 102/74(80) {93/61(66) - 110/75(101)} mmHg
   RR: 24 (20 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 9 (4 - 13)mmHg
   Mixed Venous O2% Sat: 58 - 58
   Total In:
                                                                  2,341 mL
                                                                  1,064 mL
   PO:
   TF:
                                                                    208 mL
                                                                    123 mL
   IVF:
                                                                  1,473 mL
                                                                    691 mL
   Blood products:
   Total out:
                                                                     63 mL
                                                                      0 mL
   Urine:
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,278 mL
                                                                  1,064 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///14/
   Physical Examination
   GEN: Elderly man, unable to speak, in NAD
   HEENT: PERRL, poor dentition, dry mucous membranes
   CHEST: bibasilar rales, difficult to auscultate posteriorly due to
   positioning, no rhonchi or wheezes
   CV: distant heart sounds, RRR, no m/r/g
   ABD: Soft, NT, ND, no masses or organomegaly
   EXT: 2+ DP pulses bilaterally. Dry lesion on plantar surface/pad of
   left foot, open but non-draining with sutures in place
   NEURO: pupils sluggish bilaterally but reactive, attentive but unable
   to speak, following simple single commands (thumbs up, grip) grip
   reduced weak bilat, not moving LLE
   GU: No scrotal lesions or edema, no pressure ulceration
   DERM: scattered petechiae over bilateral thighs, area of enlarging
   ecchymosis over right lower abdomen
   Labs / Radiology
   315 K/uL
   10.7 g/dL
   195
   2.3 mg/dL
   14 mEq/L
   4.1 mEq/L
   23 mg/dL
   115 mEq/L
   143 mEq/L
   33.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2129-5-22**]  12:26 PM
                             [**2129-5-23**]  04:21 AM
                             [**2129-5-26**]  11:09 AM
                             [**2129-5-26**]  03:39 PM
                             [**2129-5-26**]  05:30 PM
                             [**2129-5-27**]  02:39 AM
                             [**2129-5-27**]  04:22 AM
                             [**2129-5-27**]  12:00 PM
                             [**2129-5-27**]  09:33 PM
                             [**2129-5-28**]  04:00 AM
   WBC
   11.4
   7.9
   5.0
   9.0
   Hct
   25.1
   27.9
   17.8
   28.4
   33.1
   Plt
   [**Telephone/Fax (3) 8419**]15
   Cr
   1.3
   1.7
   1.8
   2.0
   2.2
   2.3
   TropT
   0.52
   TCO2
   15
   13
   Glucose
   88
   160
   126
   119
   126
   175
   195
   Other labs: PT / PTT / INR:18.9/59.4/1.7, CK / CKMB /
   Troponin-T:125/9/0.52, ALT / AST:32/142, Alk Phos / T Bili:111/0.4,
   Amylase / Lipase:/50, Differential-Neuts:66.0 %, Lymph:28.6 %, Mono:5.1
   %, Eos:0.1 %, Fibrinogen:279 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0
   g/dL, LDH:317 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   The patient is a 73 yo man with h/o PVD, DM, CAD, and recent C diff who
   presented s/p intubation and PEA arrest thought to be [**1-3**] dehydration
   from cdiff infection.
   .
   # Cardiogenic shock
 this is the likely etiology for the patient
   hypotension.  The fact that the patient has been afebrile, no increase
   in WBC, that he has not been hypothermic, and that his urine and blood
   cultures have been negative all point away from infection as the cause
   of his hypotension.
   - Urine and blood cultures still pending
 will follow up
   - Will continue broad spectrum antibiotic treatment at this point with
   daptomycin, zosyn, PO vanc.
   # Renal Failure
   Pt anuric, renal failure likely acute on chronic secondary to
   hypoperfusion injury.
   - will follow-up on renal recommendations
   # Non-AG metabolic acidosis
   - likely secondary to RTA type 4
   - will continue to follow renal recommendations
   - continue bicarb PO BID
   # Altered Mental Status
   - this is likely due to a global encephalopathy and not a seizure, as
   patient
s mental status changes with his physical condition
   # Coagulopathy.
   -Continue to trend coag
   # Hypernatremia
   - Sodium currently 144.
   - Will continue to monitor patient
s sodium levels and give free water
   as needed.
   # C. diff colitis
   - will keep pt on PO vanc and IV flagyl for now
   # Anemia
   -H&H 10.7/33.1which is much improved since prior to transfusion.
   - will continue to monitor Hct
s and transfuse as needed.
   # CAD w/ current NSTEMI
   -          ASA contraindicated [**1-3**] h/o GI bleed and pt unable to
   tolerate PO statin at this [**Doctor First Name **]
   -
   # Foot ulcer
   - pt to continue to be seen by podiatry
   - will follow podiatry recommendations
   # DM
   - Will keep pt on insulin sliding scale
   # COPD
   - keep pt on current PRN inhaler
   # FEN
   - pt has NGT for feeds
   - follow-up nutrition recommendations for tube feedings
   ***ADDENDUM***
   Called to bedside by RN during AM rounds.  Patient had become acutely
   tachycardic, tachypnic and hypotensive without palpable radial pulse.
   Femoral pulse was palpable.  Patients son was [**Name (NI) 167**] regarding
   current condition and goals of care.  Dr. [**Last Name (STitle) **] discussed with
   patients son and the decision was made to transition to comfort
   measures only.  A priest was also called to come visit with the
   patient.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2129-5-27**] 12:25 PM 30 mL/hour
 NGT d/c
d for Pt
   comfort.
   Glycemic Control:  CMO
   Lines:
   Multi Lumen - [**2129-5-26**] 12:27 PM
   Prophylaxis:
   DVT: CMO
   Stress ulcer: CMO
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: